US08084620B2
A suspension of 4-(dimethylamino)benzoic acid (100 mg, 0.605 mmol) in DCM (3 mL) was treated with 1-chloro-N,N,2-trimethylprop-1-en-1-amine (0.120 mL, 0.908 mmol) and the resulting solution was stirred at rt for 1.5 h. 3-Bromo-2-methylaniline (0.053 mL, 0.432 mmol) was added, followed by DIEA (0.264 mL, 1.513 mmol). The mixture was stirred at rt for 1 h, then was diluted with DCM and NaHCO3 (aq). The layers were separated and the organic phase was washed with brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from 85:15 to 65:35 hexane-EtOAc) to provide N-(3-bromo-2-methylphenyl)-4-(dimethylamino)benzamide as a light yellow solid (77 mg, 53%). 1H NMR (400 MHz, DMSO-d6) δ 9.75 (s, 1H) 7.85 (d, J=9.0 Hz, 2H) 7.49 (dd, J=8.0, 1.0 Hz, 1H) 7.30 (dd, J=7.9, 0.9 Hz, 1H) 7.15 (t, J=7.9 Hz, 1H) 6.75 (d, J=9.0 Hz, 2H) 2.99 (s, 6H) 2.25 (s, 3H). Mass spectrum m/z 331, 333 (M−H)−.

reactant | 4-(dimethylamino)benzoic acid | 0.605 mmol, 100 mg | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | 1-chloro-N,N,2-trimethylprop-1-en-1-amine | 0.908 mmol, 0.120 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 3-Bromo-2-methylaniline | 0.432 mmol, 0.053 mL | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | DIEA | 1.513 mmol, 0.264 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-(3-bromo-2-methylphenyl)-4-(dimethylamino)benzamide | 77 mg, 53% | BrC=1C(=C(C=CC1)NC(C1=CC=C(C=C1)N(C)C)=O)C | C16H17BrN2O
